US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (130 mg, 0.198 mmol), LiOH.H2O (1 g, 24.6 mmol), H2O (5 mL) and methanol (15 mL) was refluxed for 2 h. After cooled to room temperature, the solution was concentrated and then the water phase was acidified to “pH” 1-2 by addition of concentrated HCl solution and then extracted with EtOAc. The combined organic layers were washed with water and brine, dried over anhydrous Na2SO4 and concentrated to give the title compound as a light yellow solid (115 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.198 mmol, 130 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CCC)(CCC)C(=O)OCC)=O)C1=C(C=CC(=C1)F)C)=O | C35H37Cl2FN2O5
reactant | LiOH.H2O | 24.6 mmol, 1 g | O[Li].O
reactant | H2O | 5 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 115 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CCC)(CCC)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C33H33Cl2FN2O5
